US06103910
0.47 g (0.0007 mol) (R)-1-[[2-[2-[(R)-2-Benzyloxycarbonyl-4,4-difluoropyrrolidin-1-yl]-2-oxo-ethoxyl]-phenoxy]acetyl]-4,4-difluoropyrrolidine-2-carboxylic acid benzyl ester in 20 ml ethanol were hydrogenated at room temperature and atmospheric pressure in the presence of 0.09 g 5% palladium/carbon. After completion of the reaction the catalyst was filtered off, the solvent was distilled off, and the residue was dissolved in dichloromethane. Evaporation gave 0.32 g (94%) (R)-1-[[2-[2-[(R)-2-carboxy-4,4-difluoropyrrolidin-1-yl]-2-oxo-ethoxyl]-phenoxy]acetyl]-4,4-difluoropyrrolidine-2-carboxylic acid as a light yellow foam. ISP-

reactant | (R)-1-[[2-[2-[(R)-2-Benzyloxycarbonyl-4,4-difluoropyrrolidin-1-yl]-2-oxo-ethoxyl]-phenoxy]acetyl]-4,4-difluoropyrrolidine-2-carboxylic acid benzyl ester | 0.0007 mol, 0.47 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CC(C1)(F)F)C(COC1=C(C=CC=C1)OCC(=O)N1[C@H](CC(C1)(F)F)C(=O)OCC1=CC=CC=C1)=O | C34H32F4N2O8
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.09 g | [Pd] | Pd
product | (R)-1-[[2-[2-[(R)-2-carboxy-4,4-difluoropyrrolidin-1-yl]-2-oxo-ethoxyl]-phenoxy]acetyl]-4,4-difluoropyrrolidine-2-carboxylic acid | 0.32 g, 94% | C(=O)(O)[C@@H]1N(CC(C1)(F)F)C(COC1=C(OCC(=O)N2[C@H](CC(C2)(F)F)C(=O)O)C=CC=C1)=O | C20H20F4N2O8
